Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ativan / iodine
 
Attending: ___
 
Chief Complaint:
Abdominal pain, anorexia
 
Major Surgical or Invasive Procedure:
Paracentesis

 
History of Present Illness:
Mr. ___ is a ___ with history of newly diagnosed alcoholic 
cirrhosis, alcoholic hepatitis (discharged on ___ treated with 
steroids, and pneumonia presenting with diffuse abdominal pain 
and anorexia x ___ days  
Pt states that after discharge on ___, he completed his ABX as 
instructed on ___ and took all his medications as he was told. 
He says that when he left the hospital, he had a good appetite 
but over the past ___ days, he has had no appetite, has been 
losing weight, and feeling fatigued. He says that he gets short 
of breath with walking short distances and walking up the 
stairs. He thinks his muscles in the extremities are wasting and 
he has no strength. He also started having diffuse abdominal 
pain, worst in the RUQ area, x5-6 days. He says that the pain is 
___ with no pain mediation. Endorses chills but no cough, 
fever, nausea or vomiting. He says that he has about 3 BM's a 
day on lactulose. Recalls some black stools. He has had labs 
drawn most recently on ___ by his PCP and he was told that 
everything was heading in the right direction. His son has been 
coughing with a mild fever. He believes his abdomen has remained 
about the same size since discharge. While waiting in ED, his 
wife noticed a rash on his anterior arms b/l as well as his 
abdomen and back. It is non-tender and non-pruritic.  
In the ED, initial vitals were: 99.1 101 124/79 16 100% RA.  
- Labs were significant for normal chem7, ALT 56 (<-99), AST 96 
(<-160), AP 129, Tbili 7.2 (<-10.6), albumin 3.4, INR 1.7, WBC 
16.6 (down from 35.1), H&H stable at 10.9/32.3, UA with few 
bacteria otherwise unremarkable.  
- Imaging revealed: RUQ US with no acute abnormalities. CT A/P 
notable for fluid-filled nondilated small bowel suggestive of 
gastroenteritis.  
- The patient was given dilaudid 0.5mg IV x2.  
Vitals prior to transfer were: 98.4 88 120/77 14 99% RA.  
He was evaluated by hepatology in ED and recommended full 
infectious work up as well as imaging.  
Bedside US did not show ascites pocket that would be tappable.  
Rectal exam normal with guaiac negative stool.  
Upon arrival to the floor, VS are 98.4 128/80 90 18 96% on RA. 
Pt reports diffuse abodminal pain that is more severe in the 
RUQ. He expresses thirst and states that he had a ___ 
sandwich in ED which he tolerated well. He denies any urinary 
symptoms.
 
Past Medical History:
Multiple surgeries for pectus excavatum
Surgery for "drooping eyelid"
 
Social History:
___
Family History:
Mother has MS ___ has ___
Uncle has unknown liver pathology
 
Physical Exam:
Admission
==========
Vitals: 98.4 128/80 90 18 96% on RA  
weight 61.2 kg  
skin: maculopapular rash along anterior forearms b/l and abdomen 
(not chest) and back starting from below scapula to the lower 
back. no rash in the ___.  
General: Alert, oriented, no acute distress. no asterixis. 
mental status with good attention and memory  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, TTP diffusely but mostly in the RUQ/RLQ area, 
distended, bowel sounds present, HSM, no rebound or guarding, no 
fluid wave, tympanic on percussion  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

Discharge
===========
Vitals: 99.4, 110s-120s/70s, 99-105, 18, 100%RA
Skin: improving maculopapular rash along anterior forearms b/l, 
on abdomen (not chest) and back starting from below scapula to 
the lower back. Chronic healing excoriations on shins 
bilaterally. 
General: Alert, oriented, no acute distress. no asterixis. 
mental status with good attention and memory  
HEENT: Sclera icteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, TTP in the periumbilical area, nondistended, 
bowel sounds present, HSM, no rebound or guarding, no fluid 
wave, tympanic on percussion  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.
 
Pertinent Results:
Admission Labs
===============
___ 05:45PM BLOOD WBC-16.6*# RBC-3.21* Hgb-10.9* Hct-32.3* 
MCV-101* MCH-34.0* MCHC-33.8 RDW-18.0* Plt ___
___ 05:45PM BLOOD Neuts-79.4* Lymphs-11.4* Monos-4.0 
Eos-4.9* Baso-0.4
___ 05:45PM BLOOD ___ PTT-36.5 ___
___ 05:45PM BLOOD Glucose-156* UreaN-8 Creat-0.7 Na-142 
K-3.7 Cl-101 HCO3-26 AnGap-19
___ 05:45PM BLOOD ALT-56* AST-96* AlkPhos-129 TotBili-7.2*
___ 06:35AM BLOOD Albumin-2.9* Calcium-8.5 Phos-4.7* 
Mg-1.3*

Discharge Labs
===============
___ 04:16AM BLOOD WBC-8.0 RBC-2.62* Hgb-8.9* Hct-25.4* 
MCV-97 MCH-34.0* MCHC-34.9 RDW-16.8* Plt ___
___ 04:16AM BLOOD ___ PTT-60.2* ___
___ 04:16AM BLOOD Glucose-110* UreaN-6 Creat-0.5 Na-137 
K-3.7 Cl-101 HCO3-25 AnGap-15
___ 04:16AM BLOOD ALT-26 AST-45* AlkPhos-92 TotBili-5.0*
___ 04:16AM BLOOD Calcium-8.8 Phos-3.3 Mg-1.4*

Urinalysis
============
___ 12:20AM URINE Color-DKAMB Appear-Hazy Sp ___
___ 12:20AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-MOD Urobiln-2* pH-7.0 Leuks-NEG
___ 12:20AM URINE RBC-4* WBC-4 Bacteri-FEW Yeast-NONE Epi-0

Microbiology
=============
Time Taken Not Noted     Log-In Date/Time: ___ 5:18 am
      URINE     Site: NOT SPECIFIED      ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 9:54 am PERITONEAL FLUID      PERITOENAL FLUID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

___ 12:50 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 4:15 am IMMUNOLOGY

                            **FINAL REPORT ___

   HBV Viral Load (Final ___: 
      HBV DNA not detected. 
      Performed using the Cobas Ampliprep / Cobas Taqman HBV 
Test v2.0. 
      Linear range of quantification: 20 IU/mL - 170 million 
IU/mL. 
      Limit of detection: 10 IU/mL. 

___ 4:15 am IMMUNOLOGY

                            **FINAL REPORT ___

   HCV VIRAL LOAD (Final ___: 
      HCV-RNA NOT DETECTED. 
      Performed using Cobas Ampliprep / Cobas Taqman HCV v2.0 
Test. 
      Linear range of quantification: 1.50E+01 IU/mL - 1.00E+08 
IU/mL. 
      Limit of detection: 1.50E+01 IU/mL. 

___ 8:13 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Pending): 

   CAMPYLOBACTER CULTURE (Pending): 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

RUQ Ultrasound ___
IMPRESSION: 
1. Cholelithiasis without acute cholecystitis. 
2. Echogenic and coarsened liver, compatible with underlying 
liver disease. 
3. Splenomegaly and small amount of ascites. 
  
CT Abdomen and Pelvis ___
IMPRESSION:  
1.  Hepatosplenomegaly with increased ascites and diffuse 
anasarca compared to ___. 
2.  Fluid-filled nondilated small bowel, suggestive of 
gastroenteritis. No evidence of colitis or diverticulitis within 
limitations of noncontrast technique. 
3.  Cholelithiasis. No specific evidence for cholecystitis. 

Chest Xray ___
IMPRESSION:  
Small right base opacity consistent with infection or 
aspiration. 
 
Brief Hospital Course:
Mr. ___ is a ___ with history of newly diagnosed alcoholic 
cirrhosis, alcoholic hepatitis (discharged on ___ treated with 
steroids, and pneumonia presenting with diffuse abdominal pain 
and anorexia x ___ontrolled with improving 
appetite.

# Alcoholic Hepatitis: Discriminant function of 37. Patient left 
with PICC line and there could be some concern for acute drug 
use and exposure to hepatitis virus. T. Bili continues to 
improve, patient not vomiting in 24 hours. Hep B viral load 
negative. It was decided that given his continued improvement he 
did not need steroids.

# Abdominal pain: Mmost likely due to both gastroenteritis and 
alcholic hepatitis. Has evidence of liquid filled bowels on CT 
which could be GI virus or also lactulose. Abdominal exam, 
downtrending lab values, and imaging are reassuring for other 
processes on DDx. Lipase ok. UA clean and UCx negative. Para 
showed few polys not consistent with SBP, with culture negative. 
Pain responded well to oxycodone. He was eating and drinking 
with no vomiting and having bowel movements for two days on day 
of discharge.

# Rash: His exam notable for a maculopapular rash in the UE and 
trunk. No mucosal involvment. Most likely viral exanthem vs. 
drug rash. Viral exanthem supported by gastroenteritis which is 
most often a viral process. Drug rash is also supported by the 
fact that patient has been on vancomycin, cefepime, lasix and 
azithromycin (all of which may cause rash) and mild eosinophilia 
on labs now resolved. Rash was resolving on discharge. He was 
not on antibiotics during this admission and his lasix was held. 


# Tachycardia: Developed in the setting of vomiting and poor 
appetite. Regular. Likely secondary to hypovolemia. He improved 
with 5% albumin. 

# Hepatic Encephalopathy: History in the past but none on this 
admission. His lactulose was initially held and then restarted 
on discharge.

# Ascites: mild on exam and US but CT scan showed increased 
ascites compared to the CT during last admission. He was on 
lasix 20mg daily. Bedside US with no good fluid pocket for 
paracentesis. Lasix was stopped given concern for rash with 
recommendation to follow up with ___ further 
evaluation.

# Nutrition: Pt reports anorexia, weight loss, fatigue, and poor 
muscle strength. Nutrition was consulted who recommended 
continued nutritional encouragement. He did not need enteral 
access nor tube feeds.

# Cirrhosis: Due to alcohol. Pt presented with alcoholic 
hepatitis on previous admission and was treated with steroid 
which had to be weaned off quickly due to pneumonia and 
encephalopathy. MELD score 20, which was 19 on discharge.
  
# Coagulopathy: INR 1.7 (downtrending) which was downtrending 
from last admission and with normal platelets. Pt reports 
intermittent black stool but rectal exam with brown stool and 
H&H overall stable. He was monitored and his INR remained 
stable.

Transitional
------------
- follow up on nutritional status, he is concerned about weight 
loss
- consider restarting diuresis with Lasix to challenge if this 
caused rash, or with ethacrynic acid if need other diuresis  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN pain 
4. Lactulose 30 mL PO TID 
5. Nystatin Oral Suspension 5 mL PO TID 
6. Sarna Lotion 1 Appl TP QID:PRN itching 
7. Thiamine 100 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Potassium Chloride 20 mEq PO DAILY 
10. Magnesium Oxide 400 mg PO DAILY 

 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
2. Nystatin Oral Suspension 5 mL PO TID 
3. Omeprazole 40 mg PO DAILY 
4. Sarna Lotion 1 Appl TP QID:PRN itching 
5. Thiamine 100 mg PO DAILY 
6. Magnesium Oxide 400 mg PO DAILY 
7. Potassium Chloride 20 mEq PO DAILY 
8. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*30 
Tablet Refills:*0
9. Lactulose 30 mL PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
- viral gastroenteritis

Secondary Diagnosis
- alcoholic hepatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was our pleasure caring for you at ___ 
___. You were admitted with abdominal pain and poor 
appetite. We did many blood and imaging tests and saw no serious 
cause of your pain. You had some nausea, and your CT scan showed 
an area of intestines that could be due to a stomach bug. You 
improved slowly and on discharge your pain was manageable and 
your appetite improved. We hope you continue to get better.

Your lasix was stopped while you are having your illness and 
because we were concered about an allergy. Please follow up with 
your PCP and liver team this week to discuss restarting this 
medication.

The cause of your rash is unclear. Some medications including 
antibiotics and Lasix can cause a rash like this. In addition, 
some viral infections (GI bugs) can cause a rash like this. 
Almost every time the rash will clear on it's own.
 
Followup Instructions:
___